US05187156
To a solution of Boc-His(Tos)-D-Trp(CHO)-Phe-OBzl (1.16 g) in DMF (35 ml) was added pyridinium chloride (1.6 g) at room temperature. After stirring for one and half an hour, additional pyridinium chloride (0.4 g) was added and the mixture was stirred for additional 50 minutes. After evaporation, the residue was solidified with water, filtered, washed with 2% hydrochloric acid, water, 2% sodium hydrogencarbonate, water, and dried. The powder was subjected to column chromatography on silica gel (100 g) and eluted with a mixture of chloroform and methanol (20:1). The fractions containing the object compound were combined and evaporated. The residue was dissolved in ethanol and reprecipitated with water, filtered and dried to give Boc-His-D-Trp(CHO)-Phe-OBzl (0.70 g).

reactant | Boc-His(Tos)-D-Trp(CHO)-Phe-OBzl | 1.16 g | N([C@@H](CC1=CN(C=N1)S(=O)(=O)C1=CC=C(C)C=C1)C(=O)N[C@H](CC1=CN(C2=CC=CC=C12)C=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C46H48N6O9S
reactant | pyridinium chloride | 1.6 g | [Cl-].[NH+]1=CC=CC=C1
reactant | pyridinium chloride | 0.4 g | [Cl-].[NH+]1=CC=CC=C1
solvent | DMF | 35 ml | CN(C)C=O | C3H7NO
product | Boc-His-D-Trp(CHO)-Phe-OBzl | 0.70 g | N([C@@H](CC1=CNC=N1)C(=O)N[C@H](CC1=CN(C2=CC=CC=C12)C=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C39H42N6O7
